US07544685B2
2c, 2-((+)-(S)-3-{2-[4-(1H-Pyrrolo[2,3-c]pyridin-5-yl)-piperazin-1-yl]-ethyl}-2,3-dihydro-1H-indol-1-yl)-acetamide dihydrochloride
from 5-{4-[(S)-2-(2,3-dihydro-1H-indol-3-yl)-ethyl]-piperazin-1-yl}-1H-pyrrolo[2,3-c]pyridine and 2-chloroacetamide. Assignment of the optical rotation was done in dimethyl sulfoxide.

reactant | 5-{4-[(S)-2-(2,3-dihydro-1H-indol-3-yl)-ethyl]-piperazin-1-yl}-1H-pyrrolo[2,3-c]pyridine | N1C[C@H](C2=CC=CC=C12)CCN1CCN(CC1)C=1C=C2C(=CN1)NC=C2 | C21H25N5
reactant | 2-chloroacetamide | ClCC(=O)N | C2H4ClNO
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2-((+)-(S)-3-{2-[4-(1H-Pyrrolo[2,3-c]pyridin-5-yl)-piperazin-1-yl]-ethyl}-2,3-dihydro-1H-indol-1-yl)-acetamide dihydrochloride | Cl.Cl.N1C=CC=2C1=CN=C(C2)N2CCN(CC2)CC[C@@H]2CN(C1=CC=CC=C21)CC(=O)N | InChI=1S/C23H28N6O.2ClH/c24-22(30)16-29-15-18(19-3-1-2-4-21(19)29)6-8-27-9-11-28(12-10-27)23-13-17-5-7-25-20(17)14-26-23;;/h1-5,7,13-14,18,25H,6,8-12,15-16H2,(H2,24,30);2*1H/t18-;;/m1../s1
